US07521442B2
1-benzhydryl-3-isopropylazetidin-3-ol.
To a 1.0 M isopropylmagnesium bromide in THF (5.0 mL, 5.0 mmol), 1-benzhydryl-azetidin-3-one (237 mg, 1 mmol) in THF (5 mL) was added dropwise at 0° C. The reaction mixture was stirred at 0° C. for 1 hr. Then it was added 10% NaHCO3 solution and extracted with ether (2×30 mL). The organic layers were combined, dried (MgSO4) and concentrated to give an orange oil. The crude product was purified by Prep. HPLC column using CH3CN—H2O-ammonium acetate solvent system. Fractions were collected and concentrated. Then it was extracted with ethyl acetate (2×30 mL). The organic layers were combined, dried (MgSO4) and concentrated to give a light yellow oil as Grignard reaction product. (80 mg, 28% yield). MS m/z 282(MH+), Retention time: 1.485 min. 1H NMR (300 MHz, MeOD) δ ppm 0.93 (d, J=6.95 Hz, 6 H) 1.90-2.04 (m, 1 H) 3.00 (d, J=9.15 Hz, 2 H) 3.28 (d, J=9.15 Hz, 2 H) 4.49 (s, 1 H) 7.14-7.22 (m, 2 H) 7.23-7.33 (m, 4 H) 7.37-7.46 (m, 4 H).

reactant | isopropylmagnesium bromide | 1.0 M | C(C)(C)[Mg]Br
reactant | 1-benzhydryl-azetidin-3-one | 1 mmol, 237 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mmol, 5.0 mL | C1CCOC1 | C4H8O
product | 1-benzhydryl-3-isopropylazetidin-3-ol | 28% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(O)C(C)C | C19H23NO
